US07323472B2
To a solution of 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde (11.1 g, 50 mmol) in CHCl3 (100 mL) was added 2,6-difluoroaniline (8.07 mL, 75 mmol, 1.5 eq) followed by Et3N (10.43 mL, 75 mmol, 1.5 eq). The reaction mixture turned yellow and was heated to reflux for 24 h, H2O (50 mL) was added and the layers were separated. The organic layer was evaporated and the crude product was recrystalized from 200 mL of a methanol: H2O mixture (2:1) to give 12.03 g (76%) of pure 4-chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 2.21 (s, 3H), 6.91 (m, 2H), 7.24 (m, 1H), 10.29 (s, 1H), 10.35 (br s, 1H). LC MS (m/e)=316 (MH+).

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 50 mmol, 11.1 g | ClC1=NC(=NC(=C1C=O)Cl)SC | C6H4Cl2N2OS
reactant | 2,6-difluoroaniline | 75 mmol, 8.07 mL, 1.5 eq | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | Et3N | 75 mmol, 10.43 mL, 1.5 eq | CCN(CC)CC | C6H15N
reactant | H2O | 50 mL | O | H2O
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 12.03 g, 76% | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1F)F)SC | C12H8ClF2N3OS
